US08420647B2
b) 2-Chloro-4-(2,5-dichloro-phenoxy)-6-methyl-nicotinic acid ethyl ester
To a solution of 500 mg (2.136 mmol) ethyl 2,4-dichloro-6-methylpyridine-3-carboxylate (commercially available, CAS RN 86129-63-7) in 7.5 mL dry N,N-dimethylformamide was added 366 mg (2.243 mmol) 2,5-dichlorophenol and 590 mg (4.272 mmol) potassium carbonate and 41 mg (0.214 mmol) copper(I) iodide and 41 mg (0.641 mmol) copper nanopowder (avg. particle size 100 nm). The reaction mixture was stirred at 120° C. for 18 hours and then poured on 30 ml, 1N aqueous hydrochloric acid and 30 mL ethyl acetate. The layers were separated and the aqueous layer was extracted a second time with 30 mL ethyl acetate. The combined organic layers were washed with 30 mL brine, dried over magnesium sulfate, filtered and concentrated under vacuum. The residue was purified by preparative HPLC (Phenomenex Gemini column) with a gradient of acetonitrile:water (50:50 to 100:0) to afford 35 mg (18%) of the title compound as a light yellow oil. MS (ESI): 359.995 [M+H]+.

reactant | ethyl 2,4-dichloro-6-methylpyridine-3-carboxylate | 2.136 mmol, 500 mg | ClC1=NC(=CC(=C1C(=O)OCC)Cl)C | C9H9Cl2NO2
reactant | 2,5-dichlorophenol | 2.243 mmol, 366 mg | ClC1=C(C=C(C=C1)Cl)O | C6H4Cl2O
reactant | potassium carbonate | 4.272 mmol, 590 mg | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 1N, 30 ml | Cl | ClH
solvent | N,N-dimethylformamide | 7.5 mL | CN(C=O)C | C3H7NO
catalyst | copper(I) iodide | 0.214 mmol, 41 mg | [Cu]I
catalyst | copper | 0.641 mmol, 41 mg | [Cu] | Cu
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | 2-Chloro-4-(2,5-dichloro-phenoxy)-6-methyl-nicotinic acid ethyl ester | 35 mg, 18% | C(C)OC(C1=C(N=C(C=C1OC1=C(C=CC(=C1)Cl)Cl)C)Cl)=O | C15H12Cl3NO3
